US06743789B2
2-Chloro-4-(2,4-dimethoxy-benzyl)-7-methylsulfanyl-3,4-dihydro-benzo[e][1,4]diazepin-5-one
4-(2,4-Dimethoxy-benzyl)-7-methylsulfanyl-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione (630 mg, 1.7 mmol) and N,N-dimethyl-p-toluidine (489 μL, 3.4 mmol) were mixed in toluene (5 mL) and heated to 100° C. Then phosphorus oxychloride (170 μL, 1.9 mmol) was added dropwise and heating at 100° C. was continued for 1 h. The resulting dark red solution was used directly in the subsequent step.

reactant | 4-(2,4-Dimethoxy-benzyl)-7-methylsulfanyl-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione | 1.7 mmol, 630 mg | COC1=C(CN2CC(NC3=C(C2=O)C=C(C=C3)SC)=O)C=CC(=C1)OC | C19H20N2O4S
reactant | N,N-dimethyl-p-toluidine | 3.4 mmol, 489 μL | CN(C1=CC=C(C=C1)C)C | C9H13N
reactant | phosphorus oxychloride | 1.9 mmol, 170 μL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-4-(2,4-dimethoxy-benzyl)-7-methylsulfanyl-3,4-dihydro-benzo[e][1,4]diazepin-5-one | ClC=1CN(C(C2=C(N1)C=CC(=C2)SC)=O)CC2=C(C=C(C=C2)OC)OC | C19H19ClN2O3S
